US07196104B2
Preparation X: 2-(phthalimidyl)-3-(1-piperidinylmethyl)-pyridine
3-(Dibromomethyl)-2-(phthalimidyl)pyridine (185 mg, 0.47 mmol) was dissolved in CH2Cl2 (2 mL) and treated with piperidine (0.460 mL, 4.66 mmol), and glacial AcOH (0.160 mL, 2.80 mmol) in a dropwise fashion. The resulting yellow solution was stirred at 23° C. for 2 h, then treated with solid NaBH(OAc)3 (393 mg, 1.86 mmol) in one portion, and stirring was continued for 14 h. After stirring 14 h at 23° C., the mixture was treated with 2M K2CO3 (6 mL), and stirred for 1 h. After 1 h, the mixture was diluted with EtOAc (50 mL) and washed with H2O (1×50 mL), and saturated NaCl (1×50 mL). The organic phase was then dried (MgSO4) and concentrated in vacuo to provide the title compound as a yellow residue. The crude material was used in subsequent transformations without further purification. MS m/z: 323 (M+H).

reactant | 3-(Dibromomethyl)-2-(phthalimidyl)pyridine | 0.47 mmol, 185 mg | BrC(C=1C(=NC=CC1)N1C(C=2C(C1=O)=CC=CC2)=O)Br | C14H8Br2N2O2
reactant | piperidine | 4.66 mmol, 0.460 mL | N1CCCCC1 | C5H11N
reactant | AcOH | 2.80 mmol, 0.160 mL | CC(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 1.86 mmol, 393 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | K2CO3 | 2M, 6 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 2-(phthalimidyl)-3-(1-piperidinylmethyl)-pyridine | C1(C=2C(C(N1C1=NC=CC=C1CN1CCCCC1)=O)=CC=CC2)=O | C19H19N3O2
